US06858638B2
4-Fluoro-1-methylsulfinyl-2-nitrobenzene can be obtained in the following way: 4.7 g of magnesium monoperoxyphthalate are added portionwise to a solution, under argon, of 1.9 g of 4-fluoro-1-methylsulfanyl-2-nitrobenzene in 6 ml of methanol and 30 ml of dichloromethane. The reaction mixture is then stirred at a temperature in the region of 20° C. for 3 hours, and is then filtered through sintered glass and the solid is washed with dichloromethane. The filtrate is washed with an aqueous sodium hydrogencarbonate solution then with water, dried over magnesium sulfate, treated with 3S black, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue thus obtained is purified by chromatography on a column of 125 g of silice (particle size 40-63 μm), eluting with pure dichloromethane. The fractions containing the expected product are pooled and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 1.3 g of 4-fluoro-1-methylsulfinyl-2-nitrobenzene are thus obtained in the form of a yellow foam (Rf=0.23, silica gel thin layer chromatography, eluent: dichloromethane/ethyl acetate 90/10)).

reactant | magnesium monoperoxyphthalate | 4.7 g | C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-].[Mg+2]
reactant | 4-fluoro-1-methylsulfanyl-2-nitrobenzene | 1.9 g | FC1=CC(=C(C=C1)SC)[N+](=O)[O-] | C7H6FNO2S
solvent | methanol | 6 ml | CO | CH4O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-fluoro-1-methylsulfinyl-2-nitrobenzene | 1.3 g | FC1=CC(=C(C=C1)S(=O)C)[N+](=O)[O-] | C7H6FNO3S
